US07253192B2
C] Cyclopropanecarboxylic acid tert-butyl ester
The esterification was performed following conditions described in Wright, Stephen W.; Hageman, David L.; Wright, Ann S.; Mc Clure, Lester D., Tetrahedron Letters 1997, 38(42), 7345-7348. 8.04 ml (150 mmol) concentrated sulfuric acid was added to a vigorously stirred suspension of 72.22 g (600 mmol) MgSO4 in 450 ml CH2Cl2. The mixture was stirred for 20 min, after which 11.90 ml (150 mmol) of cyclopropanecarboxylic acid was added. 55.59 ml (750 mmol) of tert-butanol was added last. The mixture was sealed tightly and stirred for 18 h at room temperature. The reaction was quenched with aqueous saturated NaHCO3 and stirred until all MgSO4 had dissolved. The aqueous phase was extracted with ether (two times). The organic phases were washed with water (5×), aqueous saturated NaCl solution and dried (Na2SO4) to give 10.38 g of the title compound as volatile, light yellow liquid.

reactant | sulfuric acid | 150 mmol, 8.04 ml | S(O)(O)(=O)=O | H2O4S
reactant | MgSO4 | 600 mmol, 72.22 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | cyclopropanecarboxylic acid | 150 mmol, 11.90 ml | C1(CC1)C(=O)O | C4H6O2
reactant | tert-butanol | 750 mmol, 55.59 ml | C(C)(C)(C)O | C4H10O
solvent | CH2Cl2 | 450 ml | C(Cl)Cl | CH2Cl2
product | Cyclopropanecarboxylic acid tert-butyl ester | 10.38 g | C(C)(C)(C)OC(=O)C1CC1 | C8H14O2
